US06869952B2
P. 1-(3-Benzyloxy-2-fluoro-6-nitro-phenyl)-propan-2-one
To a solution of 1-(2,3-difluoro-6-nitrophenyl)-propan-2-one (2.5 g, 82% purity by HPLC analysis, 9.54 mmol) were added benzyl alcohol (2.5 mL) and LiOH.H2O (1.07 g, 25.58 mmol). The reaction mixture was then heated to 100-110° C. and stirred for 4 hours until HPLC analysis indicated complete reaction. After cooling to RT, the reaction mixture was diluted with dichloromethane (18 mL) and neutralized to pH 6-7 with 1 N HCl. The layers were separated and the organic phase was washed with brine and collected. With stirring, heptane (30-25 mL) was added to the organic solution whereupon crystallization was initiated. The resulting slurry was cooled to 0-5° C. and stirred for an additional 1 h. The slurry was then filtered and the filter cake was washed with heptane. The yellow-brown solids were then dried in vacuo at 50° C. for 12-15 h to afford 1.6 g of the desired compound which was 95% pure by HPLC analysis. HPLC method: Column: YMC Pack Cyano 3 um 4.6×50 mm Solvent A: 0.05% TFA in MeOH:Water (20:80), Solvent B: 0.05% TFA in MeOH: water (20:80), Wavelength: 254 nm Flow Rate: 3 mL/min. Gradient Time: 3 min. Final % B: 100 Initial Hold: 0.5 min. Start % B: 0. Typical Retention Times: SM, 1.2 min; Product 2.2-2.3 min.

reactant | 1-(2,3-difluoro-6-nitrophenyl)-propan-2-one | 9.54 mmol, 2.5 g | FC1=C(C(=CC=C1F)[N+](=O)[O-])CC(C)=O | C9H7F2NO3
reactant | benzyl alcohol | 2.5 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | LiOH.H2O | 25.58 mmol, 1.07 g | O[Li].O
reactant | HCl | 1 N | Cl | ClH
solvent | dichloromethane | 18 mL | ClCCl | CH2Cl2
product | 1-(3-Benzyloxy-2-fluoro-6-nitro-phenyl)-propan-2-one | 1.6 g | C(C1=CC=CC=C1)OC=1C(=C(C(=CC1)[N+](=O)[O-])CC(C)=O)F | C16H14FNO4
